### PR TITLE
chore: build also with `with_auxiliary`

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
potentially it might be good to build it also in the CI with that option, because it seems like it might also be useful in identifying bugs (see the fix in GreensOpenProblem/4.lean)

File: FormalConjectures/ErdosProblems/501.lean [hunk 1]
```diff
@@ -87,6 +87,7 @@ theorem erdos_501.variants.erdosHajnal_finite : answer(True) ↔
       (∀ x, Bornology.IsBounded (A x)) →
       (∀ x, volume.toOuterMeasure (A x) < 1) →
       ∃ X : Finset ℝ, n ≤ X.card ∧ (X : Set ℝ).Pairwise (fun x y => x ∉ A y) := by
+  show True ↔ _
   simp only [true_iff]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/501.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/501.lean [hunk 2]
```diff
@@ -103,6 +104,7 @@ theorem erdos_501.variants.hechler_CH : answer(True) ↔
       (∀ x, Bornology.IsBounded (A x)) ∧
       (∀ x, volume.toOuterMeasure (A x) < 1) ∧
       ¬ ∃ X : Set ℝ, X.Infinite ∧ X.Pairwise (fun x y => x ∉ A y) := by
+  show True ↔ _
   simp only [true_iff]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/501.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/501.lean [hunk 3]
```diff
@@ -120,6 +122,7 @@ theorem erdos_501.variants.closed_size3 : answer(True) ↔
       (∀ x, IsClosed (A x)) →
       (∀ x, volume (A x) < 1) →
       ∃ X : Set ℝ, 3 ≤ X.ncard ∧ X.Pairwise (fun x y => x ∉ A y) := by
+  show True ↔ _
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/501.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/501.lean [hunk 4]
```diff
@@ -152,6 +156,7 @@ theorem erdos_501.variants.gladysz_size2 : answer(True) ↔
       (∀ x, IsClosed (A x)) →
       (∀ x, volume (A x) < 1) →
       ∃ X : Set ℝ, 2 ≤ X.ncard ∧ X.Pairwise (fun x y => x ∉ A y) := by
+  show True ↔ _
   simp only [true_iff]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/501.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/595.lean [hunk 5]
```diff
@@ -76,6 +76,7 @@ theorem erdos_595.variants.folkman_finite : answer(True) ↔
     ∃ (V : Type*) (_ : Fintype V) (G : SimpleGraph V),
       G.CliqueFree 4 ∧
       ∀ (H : Fin n → SimpleGraph V), (∀ i, (H i).CliqueFree 3) → G ≠ ⨆ i, H i := by
+  show True ↔ _
   simp only [true_iff]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/595.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/501.lean [hunk 6]
```diff
@@ -135,6 +133,7 @@ theorem erdos_501.variants.newelski_pawlikowski_seredynski : answer(True) ↔
       (∀ x, IsClosed (A x)) →
       (∀ x, volume (A x) < 1) →
       ∃ X : Set ℝ, X.Infinite ∧ X.Pairwise (fun x y => x ∉ A y) := by
+  show True ↔ _
   simp only [true_iff]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/501.lean]:
```suggestion
```

**Review by Paul-Lez — APPROVED** [review]
